US07576094B2
To a solution of 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutane]-3-carbaldehyde O-methyloxime (150 mg) in 10 mL of THF at 0° C. was added BH3/pyridine complex (2.27 mL). Subsequently, 9 mL of HCl in dioxane (4.0 M solution) was added over a period of 1 hour. The reaction mixture was allowed to stir overnight. The mixture was extracted with ethyl acetate, washed with saturated NaHCO3, and concentrated in vacuo. The residue was purified by flash chromatography eluted with 30% ethyl acetate in hexane to give 142 mg of 3-[(methoxyamino)methyl]-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-6-ol as a yellow solid. 1H-NMR (300 MHz, CDCl3) δ=6.59 (s, 1H, =CH), 6.45 (s, 1H), 5.50 (b, 1H), 4.75 (b, 1H), 3.81 (s, 2H), 3.62 (s, 3H), 2.20 (s, 3H), 2.19 (s, 3H), 2.40-1.75 (m, 6H) ppm. 13C-NMR (75 MHz, CDCl3) δ=146.3, 146.0, 134.0, 123.9, 120.3, 119.4, 119.1, 114.6, 81.1, 62.0, 54.7, 33.1, 16.5, 14.3, 11.2 ppm. MS: (m/z)=229.1 (M−NH2OMe+).

reactant | 6-hydroxy-5,7-dimethylspiro[chromene-2,1′-cyclobutane]-3-carbaldehyde O-methyloxime | 150 mg | CON=CC1=CC2=C(C(=C(C=C2OC12CCC2)C)O)C | C16H19NO3
reactant | HCl | 9 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dioxane | 4.0 M | O1CCOCC1 | C4H8O2
product | 3-[(methoxyamino)methyl]-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-6-ol | 142 mg | CONCC1=CC2=C(C(=C(C=C2OC12CCC2)C)O)C | C16H21NO3
